US06969728B2
Step 1) Preparation N-(2,2-Diphenyl-ethyl)-2-hydroxy-N-methyl-2-phenyl-acetamide.
To a stirred solution of (2,2-diphenylethyl)methylamine (4.97 g, 23.5 mmol) in chloroform (50 mL) was added O-acetylmandelic chloride (5.3 mL, 24 mmol) followed by triethylamine (4.0 mL, 29 mmol). The reaction was stirred for 1 hour and then concentrated. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was dried (sodium sulfate) and concentrated to afford a colorless gum. The crude amide was taken up in 1:1 tetrahydrofuran/methanol (80 mL) and treated with 1 N aqueous lithium hydroxide (30 mL, 30 mmol). The mixture was stirred for 2 hours and concentrated to remove the organic solvents. The remaining aqueous solution was diluted with water and extracted twice with ethyl acetate and once with methylene chloride. The combined organic extracts were dried (sodium sulfate) and concentrated to afford an off-white solid. This material was triturated with diethyl ether to afford 7.59 g (93%) of product as a white solid: 1H NMR (CDCl3) δ 7.43-6.98 (m, 15H), 5.07 (s, 1H), 4.57-4.44 (m, 1H), 4.36-4.28 (m, 1H), 3.76-3.64 (m, 1H), 2.46 (s, 3H) ppm.

reactant | (2,2-diphenylethyl)methylamine | 23.5 mmol, 4.97 g | C1(=CC=CC=C1)C(CNC)C1=CC=CC=C1 | C15H17N
reactant | O-acetylmandelic chloride | 24 mmol, 5.3 mL | C(C)(=O)[ClH]C(C(O)C1=CC=CC=C1)=O | C10H11ClO3
reactant | triethylamine | 29 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | lithium hydroxide | 30 mmol, 1 N, 30 mL | [OH-].[Li+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran methanol | 80 mL | O1CCCC1.CO
product | N-(2,2-Diphenyl-ethyl)-2-hydroxy-N-methyl-2-phenyl-acetamide | 7.59 g, 93% | C1(=CC=CC=C1)C(CN(C(C(C1=CC=CC=C1)O)=O)C)C1=CC=CC=C1 | C23H23NO2
